* Z:\mnt\design.r\spice\examples\3203-1.asc
XU1 N001 OUT N004 IN 0 N002 IN N003 0 N005 LTC3203-1
V1 IN 0 3.6
C1 N001 N003 2.2µ
C2 OUT 0 10µ
R1 N002 0 100K
R2 IN N002 400K
C3 N004 N005 2.2µ
Rload OUT 0 50
.tran 1m startup
.lib LTC3203-1.sub
.backanno
.end
